US04948796
11.54 g of triphenylphosphine was added to a solution of 7.83 g of (E)-3-(3-triphenylmethylaminophenyl)allyl alcohol and 14.59 g of carbon tetrabromide dissolved in 60 ml of tetrahydrofuran, with ice-cooling. The mixture was stirred for 1 hour at the same temperature to obtain a tetrahydrofuran solution of (E)-(3-triphenylmethylaminophenyl)allyl bromide. To this solution were added 4.45 g of triethylamine and 6.47 g of 3-nitro-5-(piperazin-1-yl)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene, with ice-cooling. The mixture was stirred for 5 hours at room temperature. To the reaction mixture was added 200 ml of water and the mixture was extracted with chloroform. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: n-hexane/acetone=3/1) to obtain 7.8 g of light yellow oily 3-nitro-5-[4-{(E)-3-(3-triphenylmethylaminophenyl)allyl}piperazin-1-yl]-10,11-dihydro-5H-dibenzo[a,d]cycloheptene.

reactant | triphenylphosphine | 11.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-3-(3-triphenylmethylaminophenyl)allyl alcohol | 7.83 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1C=C(C=CC1)/C=C/CO | C28H25NO
reactant | carbon tetrabromide | 14.59 g | C(Br)(Br)(Br)Br | CBr4
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (E)-(3-triphenylmethylaminophenyl)allyl bromide | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1C=C(C=CC1)/C=C/CBr | C28H24BrN
